US20010019995A1
To a three neck round bottom flask equipped with an addition funnel and an overhead stirrer was added 35 ml of hexane, 42 g of 50% sodium hydroxide and 0.50 g of tetra-n-butylammonium bromide. A mixture of 6.74 g of hexanol (66 mmol) and 20 g (100 mmol) of 2,3-dibromopropene were fed to the well-stirred reaction mixture over a 20 minute period. The reaction was stirred an additional 1 hour, then water was added, and the phases were separated. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and stripped. The product was fractionally distilled under reduced pressure to give 6.1 g of 95% pure 2-bromo-3-hexyloxypropene.

reactant | hexane | 35 ml | CCCCCC | C6H14
reactant | sodium hydroxide | 42 g | [OH-].[Na+]
reactant | hexanol | 66 mmol, 6.74 g | C(CCCCC)O | C6H14O
reactant | 2,3-dibromopropene | 100 mmol, 20 g | BrC(=C)CBr | C3H4Br2
catalyst | tetra-n-butylammonium bromide | 0.50 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 2-bromo-3-hexyloxypropene | 6.1 g, 95% | BrC(=C)COCCCCCC | C9H17BrO
